US05292747
A mixture of 5 g of ethyl 6,7-dihydro-9-hydroxypyrido[1,2-a]indole-8-carboxylate. 1.85 g of methyl acrylate and 250 mg of 1,1,3,3-tetramethylguanidine was dissolved in 250 ml of acetonitrile and the solution was stirred overnight, poured into 500 ml of water containing 20 ml of 2M hydrochloric acid and extracted with diethyl ether. The ethereal extracts were washed with water, dried and concentrated. There were obtained 6.33 g of methyl 8-(ethoxycarbonyl)-6,7,8,9-tetrahydro-9-oxopyrido[1,2-a]indole-8-propionate.

reactant | ethyl 6,7-dihydro-9-hydroxypyrido[1,2-a]indole-8-carboxylate | 5 g | OC1=C(CCN2C1=CC1=CC=CC=C21)C(=O)OCC | C15H15NO3
reactant | methyl acrylate | 1.85 g | C(C=C)(=O)OC | C4H6O2
reactant | 1,1,3,3-tetramethylguanidine | 250 mg | CN(C(=N)N(C)C)C | C5H13N3
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
solvent | water | 500 ml | O | H2O
product | methyl 8-(ethoxycarbonyl)-6,7,8,9-tetrahydro-9-oxopyrido[1,2-a]indole-8-propionate | 6.33 g | C(C)OC(=O)C1(C(C=2N(C3=CC=CC=C3C2)CC1)=O)CCC(=O)OC | C19H21NO5
